US04629727
A solution of 1-phenyl-1-cyclobutanecarbonitrile (30 g) in ether (100 ml) was added dropwise to a stirred solution of cyclohexylmagnesium bromide [prepared from cyclohexyl bromide (62.3 g) and magnesium (9.5 g) in ether (200 ml)]. The ether was replaced with toluene, and the mixture was stirred at 90° C. for 24 hours. Sodium borohydride (7.3 g) was added as a slurry in ethanol (200 ml) and the mixture was heated under reflux for 3 hours. The cooled mixture was acidified, basified, diluted with ether and water, and filtered (Celite). The organic layer was separated and the aqueous layer was extracted with ether. The combined extracts were washed, dried and the solvent removed by evaporation to give (cyclohexyl)(1-phenylcyclobutyl)methylamine which was isolated by conversion into a hydrochloride salt.

reactant | 1-phenyl-1-cyclobutanecarbonitrile | 30 g | C1(=CC=CC=C1)C1(CCC1)C#N | C11H11N
reactant | cyclohexylmagnesium bromide | 200 ml, 62.3 g | C1(CCCCC1)[Mg]Br
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | Sodium borohydride | 7.3 g | [BH4-].[Na+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | (cyclohexyl)(1-phenylcyclobutyl)methylamine | C1(CCCCC1)NCC1(CCC1)C1=CC=CC=C1 | C17H25N
